US07160888B2
Synthesis of 6-Bromo-7-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-[1,8]naphthyridin-2-one
To a solution of 4-(3-bromo-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (1.11 g, approx. 3.54 mmol, crude) in DCE (17 mL) was added 1-naphthalen-1-yl-piperazine hydrochloride (0.882 g, 3.54 mmol) followed by Et3N (1.0 mL, 7.1 mmol). The solution was stirred for 15 min and NaBH(OAc)3 (1.05 g, 4.96 mmol) was added as a powder. The reaction was stirred at room temperature for 2 h and quenched with saturated NaHCO3 and H2O. The mixture was extracted with EtOAc. The organic layer was washed with saturated NaHCO3, H2O and brine, dried over Na2SO4 and concentrated. Purification by liquid chromatography (4% MeOH/CH2Cl2) afforded the title compound as an off-white foam (1.37 g, 2.69 mmol, 76%). The HCl salt was formed by dissolving the title compound (138 mg, 0.27 mmol) in Et2O/CH2Cl2 followed by the addition of 1N HCl in Et2O (0.3 mL). The resulting white precipitate was collected by filtration, washed with Et2O and dried to give a white solid (125 mg). MS: APCI: M+1: 509.1, 511.1 (Exact Mass: 508.15).

reactant | 4-(3-bromo-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | approx. 3.54 mmol, 1.11 g | BrC=1C(=NC=2NC(CCC2C1)=O)OCCCC=O | C12H13BrN2O3
reactant | 1-naphthalen-1-yl-piperazine hydrochloride | 3.54 mmol, 0.882 g | Cl.C1(=CC=CC2=CC=CC=C12)N1CCNCC1
reactant | Et3N | 7.1 mmol, 1.0 mL | CCN(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 4.96 mmol, 1.05 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 17 mL | ClCCCl | C2H4Cl2
product | 6-Bromo-7-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 2.69 mmol, 1.37 g, 76% | BrC=1C=C2CCC(NC2=NC1OCCCCN1CCN(CC1)C1=CC=CC2=CC=CC=C12)=O | C26H29BrN4O2
